US08633212B2
Step 4. N-(5′-bromo-5,6,8,9-tetrahydro-3′H-spiro[benzo[7]annulene-7,2′-benzofuran]-3′-ylidene)cyanamide
To a solution of 5′-bromo-5,6,8,9-tetrahydro-3′H-spiro[benzo[7]annulene-7,2′-benzofuran]-3′-one (0.1660 g, 0.48 mmol) in CH2Cl2 (5 mL) was added TiCl4 (1.0 M in CH2Cl2, 1.0 mL, 1.0 mmol) dropwise at room temperature. The reaction mixture was turned into orange precipitates in a few minutes. After 1 h, 1,3-bis(trimethylsilyl)carbodiimide (0.30 mL, 1.32 mmol) was added via a syringe. The precipitates were disappeared and the reaction mixture was turned into a red solution. The mixture was stirred at room temperature for 15 h and then quenched with ice, extracted with CH2Cl2, dried over Na2SO4. After the solvent was removed under reduced pressure, the crude product was directly used in the next step without further purification. LC-MS tR=2.27 min in 3 min chromatography, m/z 367, 369 (MH+).

reactant | 5′-bromo-5,6,8,9-tetrahydro-3′H-spiro[benzo[7]annulene-7,2′-benzofuran]-3′-one | 0.48 mmol, 0.1660 g | BrC=1C=CC2=C(C(C3(O2)CCC2=C(CC3)C=CC=C2)=O)C1 | C18H15BrO2
reactant | 1,3-bis(trimethylsilyl)carbodiimide | 1.32 mmol, 0.30 mL | C[Si](N=C=N[Si](C)(C)C)(C)C | C7H18N2Si2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 1.0 mmol, 1.0 M, 1.0 mL | Cl[Ti](Cl)(Cl)Cl
product | N-(5′-bromo-5,6,8,9-tetrahydro-3′H-spiro[benzo[7]annulene-7,2′-benzofuran]-3′-ylidene)cyanamide | BrC=1C=CC2=C(C(C3(O2)CCC2=C(CC3)C=CC=C2)=NC#N)C1 | C19H15BrN2O
